US07825150B2
6.8. Synthesis of N′-(1-(4-((1R,2S,3R)-1,2,3,4-tetrahydroxybutyl)-1H-imidazol-2-yl)ethylidene)benzohydrazide
1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone (150 mg, 0.65 mmol) was suspended in methanol (3 ml) and water (1 ml). Benzoic acid hydrazide (102 mg, 0.75 mmol, 1.2 eq.) and hydrochloric acid (one drop, 12 N) were added, and the suspension was stirred at 50° C. for 18 hours. LCMS analysis indicated the formation of the product and the absence of starting material. The homogeneous reaction mixture was cooled to room temperature and concentrated in vacuo. C-18 Reverse-Phase SPE (10 g Alltech Hi-load C18, gradient from water to 20% methanol/water) to yield the product, a mixture of approximately 1:1 E:Z isomers, as a colorless solid: 193 mg (85%).

reactant | 1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone | 0.65 mmol, 150 mg | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)C(C)=O | C9H14N2O5
reactant | Benzoic acid hydrazide | 0.75 mmol, 102 mg, 1.2 eq. | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
catalyst | hydrochloric acid | 12 N, one drop | Cl | ClH
product | N′-(1-(4-((1R,2S,3R)-1,2,3,4-tetrahydroxybutyl)-1H-imidazol-2-yl)ethylidene)benzohydrazide | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)C(C)=NNC(C1=CC=CC=C1)=O | C16H20N4O5
